US07560558B2
Diflunisal (500 mg), 1-ethyl-3-(3-dimethylaminopropylcarbodiimide hydrochloride (458 mg), 1-hydroxybenzotriazole hydrate (36.7 mg), and propanol (2 ml) were dissolved in N,N-dimethylformamide to prepare a solution which was then stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give propyl 5-(2,4-difluorophenyl)salicylate (179 mg, yield 30%).

reactant | Diflunisal | 500 mg | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O | C13H8F2O3
reactant | 3-dimethylaminopropylcarbodiimide hydrochloride | 458 mg | Cl.CN(CCCN=C=N)C
reactant | 1-hydroxybenzotriazole hydrate | 36.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | propanol | 2 ml | C(CC)O | C3H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | propyl 5-(2,4-difluorophenyl)salicylate | 179 mg, yield 30% | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OCCC)=C1)O | C16H14F2O3
